US04419364
To a solution of 8.0 g of 3',5'-bis-(N-ethylcarbamoyloxy)-2-bromo acetophenone in 100 ml of acetone was added 7.0 g of N-benzyl-t-butylamine. The mixture was refluxed for 18 hours. The 4.1 g of N-benzyl-t-butylamine hydrobromide formed and precipitated during the reaction was filtered off and the filtrate was acidified with conc HCl. The filtrate was now evaporated to dryness and the title compound was isolated by column chromatography on Silica gel 60 using 1) CHCl3 /ethanol (2:1), 2) ethanol as eluants. The title compound was eluted in the ethanol fraction and recrystallized from ethanol/diethylether. The identity of the product was confirmed with NMR.

reactant | 3',5'-bis-(N-ethylcarbamoyloxy)-2-bromo acetophenone | 8.0 g | C(C)NC(=O)OC=1C=C(C=C(C1)OC(NCC)=O)C(CBr)=O | C14H17BrN2O5
reactant | N-benzyl-t-butylamine | 7.0 g | C(C1=CC=CC=C1)NC(C)(C)C | C11H17N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-benzyl-t-butylamine hydrobromide | 4.1 g | Br.C(C1=CC=CC=C1)NC(C)(C)C | InChI=1S/C11H17N.BrH/c1-11(2,3)12-9-10-7-5-4-6-8-10;/h4-8,12H,9H2,1-3H3;1H
